US07569592B2
2-(2-Pyridyl)malondialdehyde (100 mg, 0.67 mmol) and 3-bromophenylhydrazine hydrochloride (150 mg, 0.67 mmol) were suspended in ethanol (2 mL), and heated to 75° C. for 8 h. The reaction mixture was concentrated in vacuo and the residue was purified by silica gel preparative TLC eluting with hexanes:EtOAc (3:1) to afford 2-[1-(3-bromophenyl)-1H-pyrazol-4-yl]pyridine as a pale yellow solid. 1H-NMR (CDCl3, 300 MHz) δ 8.61 (d, J=4.8 Hz, 1H), 8.51 (s, 1H), 8.18 (s, 1H), 7.99 (s, 1H), 7.73-7.68 (m, 2H), 7.55 (d, J=7.9 Hz, 1H), 7.43 (d, J=8.8 Hz, 1H), 7.35 (t, J=8.1 Hz, 1H), 7.17 (dd, J=4.9, 7.4 Hz, 1H). MS (ESI) 300.0, 302.0 (M++H).

reactant | 2-(2-Pyridyl)malondialdehyde | 0.67 mmol, 100 mg | C1=CC=NC(=C1)C(C=O)C=O | C8H7NO2
reactant | 3-bromophenylhydrazine hydrochloride | 0.67 mmol, 150 mg | Cl.BrC=1C=C(C=CC1)NN
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-[1-(3-bromophenyl)-1H-pyrazol-4-yl]pyridine | BrC=1C=C(C=CC1)N1N=CC(=C1)C1=NC=CC=C1 | C14H10BrN3
